US08686152B2
To a solution of 4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethylamide hydrochloride (0.584 mmol; 0.23 g) in DMF (5 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (0.642 mmol; 0.174 g), N,N-diisopropyl-N-ethylamine (2.335 mmol; 0.413 mL) and HBTU (0.701 mmol; 0.266 g), and the resulting mixture was stirred at room temperature overnight. The mixture was then purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The resulting residue was dissolved in THF (5 mL) and a 4N HCl solution in 1,4-dioxane (10 mL) was added. The resulting solution was stirred for 5 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethylamide as a hydrochloride salt.

reactant | 4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethylamide hydrochloride | 0.584 mmol, 0.23 g | Cl.C1(CCCCC1)CNC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C(N)=O
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 0.642 mmol, 0.174 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 2.335 mmol, 0.413 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.701 mmol, 0.266 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethylamide | C1(CCCCC1)CNC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)C(N)=O | C28H38N4O3S
